US08202885B2
To a solution of 0.43 g of 2-(3,4-diethoxy-phenyl)-ethylamine in 3 mL MeOH were added 270 mg of 5 wt % Rh/C and 0.22 mL of MeCN. The reaction mixture was stirred under a H2 atmosphere (balloon) for 3 days and then filtrated over a pad of celite and washed with 100 mL MeOH. Concentration in vacuo afforded 0.4 g of [2-(3,4-diethoxy-phenyl)-ethyl]-ethyl-amine as yellow oil.

reactant | 2-(3,4-diethoxy-phenyl)-ethylamine | 0.43 g | C(C)OC=1C=C(C=CC1OCC)CCN | C12H19NO2
reactant | MeCN | 0.22 mL | CC#N | C2H3N
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Rh/C | [Rh] | Rh
product | [2-(3,4-diethoxy-phenyl)-ethyl]-ethyl-amine | 0.4 g | C(C)OC=1C=C(C=CC1OCC)CCNCC | C14H23NO2
